US05352701
Under the conditions of example 1A, 640 mg of 3-[5-(6-methoxycarbonyl-2-pyridylcarbonyl)-2-hydroxyphenyl]-propionic acid methyl ester is reacted with 505 mg of (1E)-6-bromo-l-(4-methoxyphenyl)- 1-hexene, worked up and the crude product chromatographed on silica gel with hexane/ethyl acetate (0-15%). 732 mg of 3-{5-[6-methoxycarbonyl-2-pyridylcarbonyl]-2-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-phenyl}-propionic acid methyl ester of melting point 80°-82° C. is obtained.

reactant | 3-[5-(6-methoxycarbonyl-2-pyridylcarbonyl)-2-hydroxyphenyl]-propionic acid methyl ester | 640 mg | COC(CCC1=C(C=CC(=C1)C(=O)C1=NC(=CC=C1)C(=O)OC)O)=O | C18H17NO6
reactant | (1E)-6-bromo-l-(4-methoxyphenyl)- 1-hexene | 505 mg | BrCCCC/C=C/C1=CC=C(C=C1)OC | C13H17BrO
product | 3-{5-[6-methoxycarbonyl-2-pyridylcarbonyl]-2-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-phenyl}-propionic acid methyl ester | 732 mg | COC(CCC1=C(C=CC(=C1)C(=O)C1=NC(=CC=C1)C(=O)OC)OCCCC\C=C\C1=CC=C(C=C1)OC)=O | C31H33NO7
